US08049016B2
Preparation of 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 85% yield: mp 195-197° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.74 (d, J=11.4 Hz, 2H), 7.60 (d, J=11.4 Hz, 2H), 4.51 (s, 2H), 4.00 (t, J=8.1 Hz, 2H), 3.47 (t, J=8.1 Hz, 2H), 2.47 (s, 3H); MS (ES+) m/z 386.2 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)-imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H18F3N3O3S
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 85% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O3S
